US03994900
6-[2-(Dimethylamino)ethoxy]-3,4-dihydro-4-phenyl-2(1H)-quinolinone, hydrochloride
A solution of 6-[2-(dimethylamino)ethoxy]-3,4-dihydro-4-phenyl-2(1H)-quinolinone (13.2g) in 40 ml of methanol is treated with one equivalent of ethanolic hydrogen chloride to form 13.5g of crystals, melting point 240°-244° C. Crystallization from a solution of 100 ml of methanol and 1 ml of water gives 10.6g of product, melting point 242°-244° C.

reactant | 6-[2-(dimethylamino)ethoxy]-3,4-dihydro-4-phenyl-2(1H)-quinolinone | 13.2g | CN(CCOC=1C=C2C(CC(NC2=CC1)=O)C1=CC=CC=C1)C | C19H22N2O2
reactant | hydrogen chloride | one equivalent | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 6-[2-(Dimethylamino)ethoxy]-3,4-dihydro-4-phenyl-2(1H)-quinolinone, hydrochloride | 13.5g | Cl.CN(CCOC=1C=C2C(CC(NC2=CC1)=O)C1=CC=CC=C1)C | InChI=1S/C19H22N2O2.ClH/c1-21(2)10-11-23-15-8-9-18-17(12-15)16(13-19(22)20-18)14-6-4-3-5-7-14;/h3-9,12,16H,10-11,13H2,1-2H3,(H,20,22);1H
